US04374843
16.7 g (0.0779 mol) of 2-guanidino-4-thiazole carboxylic acid ethyl ester was combined with 25 ml (0.514 mol) of hydrazine hydrate in 200 ml absolute ethanol. The slurry was heated to reflux. After 1.5 hour reflux a solid began to form from the clear solution. After 2 hours reflux the reaction slurry was cooled and the resulting solid was collected by filtration and was washed with isopropyl alcohol and ether to give 12.8 g (82%) 2-guanidino-4-thiazole carboxylic acid hydrazide, mp 247° (dec.).

reactant | 2-guanidino-4-thiazole carboxylic acid ethyl ester | 0.0779 mol, 16.7 g | C(C)OC(=O)C=1N=C(SC1)NC(=N)N | C7H10N4O2S
reactant | hydrazine hydrate | 0.514 mol, 25 ml | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-guanidino-4-thiazole carboxylic acid hydrazide | 12.8 g, 82% | N(C(=N)N)C=1SC=C(N1)C(=O)NN | C5H8N6OS
